US06335447B1
To a suspension of 0.31 g of 1-cyclopropyl-7-{2-[(1,3-dioxo-2,3-dihydro-1H-2-isoindolyl)methyl]-6-methyl-4-pyridyl}-8-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid ethyl ester in 2 ml of methanol was added 1.78 ml of an aqueous 1 mol/l sodium hydroxide solution and the mixture was stirred at room temperature for 1 hour. The reaction mixture was adjusted to pH 5.3 with 1 mol/l hydrochloric acid and then precipitated crystals were filtered. The obtained crystals were dissolved in 6 mol/l hydrochloric acid and the solution was stirred with heating at 100° C. for 4 hours. After cooling the reaction mixture to room temperature, insoluble matter was filtered off. The filtrate was concentrated under reduced pressure. Ethanol was added to the obtained residue and precipitates were filtered to obtain 0.15 g of 7-[2-(aminomethyl)-6-methyl-4-pyridyl]-1-cyclopropyl-8-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid hydrochloride. The obtained hydrochloride was dissolved in a mixed solvent consisting of 1.2 ml of ethanol and 1.2 ml of water. After adding 1.2 ml of an aqueous 1 mol/l sodium hydroxide solution to the resulting solution, carbon dioxide gas was blown therein. Filtration of the precipitates afforded 0.10 g of colorless crystals of 7-[2-(aminomethyl)-6-methyl-4-pyridyl]-1-cyclopropyl-8-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid.

reactant | 1-cyclopropyl-7-{2-[(1,3-dioxo-2,3-dihydro-1H-2-isoindolyl)methyl]-6-methyl-4-pyridyl}-8-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid ethyl ester | 0.31 g | C(C)OC(=O)C1=CN(C2=C(C(=CC=C2C1=O)C1=CC(=NC(=C1)C)CN1C(C2=CC=CC=C2C1=O)=O)C)C1CC1 | C31H27N3O5
reactant | sodium hydroxide | 1 mol/l | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/l | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 7-[2-(aminomethyl)-6-methyl-4-pyridyl]-1-cyclopropyl-8-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid hydrochloride | 0.15 g | Cl.NCC1=NC(=CC(=C1)C1=CC=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)C | InChI=1S/C21H21N3O3.ClH/c1-11-7-13(8-14(9-22)23-11)16-5-6-17-19(12(16)2)24(15-3-4-15)10-18(20(17)25)21(26)27;/h5-8,10,15H,3-4,9,22H2,1-2H3,(H,26,27);1H
